US05866564
(2S,4S)-4-Mercapto-2-(4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
A solution of 5.86 g of 4-dimethylaminopyridine and 10.35 g of o-nitrobenzyl chloroformate in 40 ml of dry methylene chloride was added, whilst ice-cooling, to a solution of 22.35 g of (2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine in 160 ml of dry methylene chloride, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was then diluted with 300 ml of ethyl acetate and the dilute solution was washed, in turn, with water (100 ml, once), with an aqueous solution of sodium hydrogencarbonate (100 ml, once) and with an aqueous solution of sodium chloride (100 ml, once). The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through slica gel, using ethyl acetate as the eluent, to give 26.35 g of the title compound, as a colorless powder.

reactant | o-nitrobenzyl chloroformate | 10.35 g | ClC(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | (2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 22.35 g | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H34N4O7S
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 5.86 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-Mercapto-2-(4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 26.35 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H31N5O10S
